data/preprocessed/USPTO_50_suzuki.csv
mech_smi,rxn_idx,step_idx_retro,source,source_db,split
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CN(C)C=O.COC1=CC(I)=C(Cl)C=C1C(=O)O.Cl.O=C([O-])[O-].OB(O)C1=CC=CC=C1Cl.[K+].[K+].[Pd:1]|(2, 1)",9,6,reaction_17,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:2])C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CN(C)C=O.COC1=CC(I)=C(Cl)C=C1C(=O)O.Cl.O=C([O-])[O-].OB(O)C1=CC=CC=C1Cl.[K+].[K+]|(1, 2)",9,5,reaction_17,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:2][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CN(C)C=O.COC1=C[C:3]([I:1])=C(Cl)C=C1C(=O)O.Cl.O=C([O-])[O-].OB(O)C1=CC=CC=C1Cl.[K+].[K+]|(2, 3);((3, 1), 2)",9,4,reaction_17,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CN(C)C=O.COC1=C[C]([Pd-2:1]([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[I:2])=C(Cl)C=C1C(=O)O.Cl.O=C([O-])[O-:3].OB(O)C1=CC=CC=C1Cl.[K+:4].[K+]|(3, 1);((1, 2), 4)",9,3,reaction_17,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CN(C)C=O.COC1=C[C]([Pd-2:1]([O]C(=O)[O-])([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=C(Cl)C=C1C(=O)O.Cl.O[B:2](O)[C:3]1=CC=CC=C1Cl.[K+].[K][I]|(1, 3);((3, 2), 1)",9,2,reaction_17,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CN(C)C=O.COC1=C[C]([Pd-2:1]([C]2=CC=CC=C2Cl)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([O:2]C(=O)[O-])[B:3](O)O)=C(Cl)C=C1C(=O)O.Cl.[K+].[K][I]|((1, 2), 3);((3, 1), 1)",9,1,reaction_17,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CN(C)C=O.COC1=C[C:1]([Pd-2:2]([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:3]2=CC=CC=C2Cl)=C(Cl)C=C1C(=O)O.Cl.O=C([O-])OB(O)O.[K+].[K][I]|((2, 3), 1);((1, 2), 2)",9,0,reaction_17,USPTO_suzuki,train
